US07504508B2
N-(4-chlorophenyl)-N-[(2S,4R)-1-(3-fluoro-4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]acetamide was dissolved in dichloromethane and a solution of BBr3 (1.0 M in dichloromethane, 10 mL) was added; the reaction was allowed to stir at room temperature for until no starting material remained. The reaction was washed with sat. NaHCO3 and brine. The organic layer were dried over MgSO4, filtered and concentrated down. The residue was purified by flash chromatography using hexanes-ethyl acetate system to give N-(4-chlorophenyl)-N-[(2S,4R)-1-(3-fluoro-4-hydroxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]acetamide in decent yield.

reactant | N-(4-chlorophenyl)-N-[(2S,4R)-1-(3-fluoro-4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]acetamide | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC(=C(C=C1)OC)F)=O)C | C26H24ClFN2O3
reactant | BBr3 | 1.0 M, 10 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-chlorophenyl)-N-[(2S,4R)-1-(3-fluoro-4-hydroxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]acetamide | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC(=C(C=C1)O)F)=O)C | C25H22ClFN2O3
